US09029560B2
Preparation of 4-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)but-3-yn-1-ol (C61)
To 3-(4-bromophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (C53) (0.50 g, 1.4 mmol) in a 25 mL vial equipped with a stir bar and cap with septa was added bis(triphenylphosphine)palladium(II) chloride (0.019 g, 0.027 mmol), copper(I) iodide (0.0026 g, 0.014 mmol) and triethylamine (8.5 mL) followed by but-3-yn-1-ol (0.12 mL, 1.6 mmol). The reaction was heated to 60° C. overnight. The reaction was stopped and cooled to room temperature. The reaction mixture was treated with 50% ethyl acetate/water. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water. The organic layer was dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography using 0-50% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent provided a solid which was dried overnight at 50° C. in vacuo to afford the title compound as a tan solid. It was calculated based on 1H NMR to be mixed with the starting butynol (8%), (0.38 g, 71%): 1H NMR (400 MHz, CDCl3) δ 8.66 (s, 1H), 8.20-8.11 (m, 2H), 7.94-7.88 (m, 2H), 7.83-7.76 (m, 2H), 7.56-7.50 (m, 2H), 3.85 (q, J=6.3 Hz, 2H), 2.74 (t, J=6.2 Hz, 2H), 1.83 (t, J=6.3 Hz, 1H); 19F NMR (376 MHz, CDCl3) δ −62.51; ESIMS m/z 358 ([M+H]+).

reactant | 3-(4-bromophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 1.4 mmol, 0.50 g | BrC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C15H9BrF3N3
reactant | triethylamine | 8.5 mL | C(C)N(CC)CC | C6H15N
reactant | but-3-yn-1-ol | 1.6 mmol, 0.12 mL | C(CC#C)O | C4H6O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.027 mmol, 0.019 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.014 mmol, 0.0026 g | [Cu]I
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)but-3-yn-1-ol | FC(C1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C#CCCO)(F)F | C19H14F3N3O
